US08252937B2
4-(4-Bromo-3-fluorophenoxy)-2-methylpyridine 1-oxide (D12)
4-Bromo-3-fluorophenol (0.5 g, 2.61 mmol) was added to a solution of sodium hydride (0.115 g, 2.90 mmol) in DMF (5 ml). After stirring for 10 minutes 4-nitro-2-picoline N-oxide (0.37 g, 2.41 mmol) was added. The reaction mixture was heated at 180° C. for 1 hour under microwave irradiation. After cooling to room temperature the mixture was filtered through diatomaceous earth and this was thoroughly washed with EtOAc. The filtrate was washed with water (2×25 ml), the organic fraction was dried (Na2SO4) and the solvent evaporated in vacuo. The crude product was purified by column chromatography (silica gel; 0-3% methanol/DCM as eluent). The desired fractions were collected and evaporated in vacuo to yield intermediate D12 (0.33 g, 49%).

reactant | 4-Bromo-3-fluorophenol | 2.61 mmol, 0.5 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | sodium hydride | 2.90 mmol, 0.115 g | [H-].[Na+]
reactant | 4-nitro-2-picoline N-oxide | 2.41 mmol, 0.37 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C | C6H6N2O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-3-fluorophenoxy)-2-methylpyridine 1-oxide | BrC1=C(C=C(OC2=CC(=[N+](C=C2)[O-])C)C=C1)F | C12H9BrFNO2
